US08633173B2
To a solution of N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide (250.0 mg, 0.6834 mmol) in acetonitrile (1 mL, 20 mmol) at room temperature was added sodium hydride, 60% disp. in mineral oil (33.0 mg, 0.825 mmol) followed by iodomethane (46.80 uL, 0.7517 mmol). The mixture was stirred at room temperature for 2 hours then additional iodomethane (10 uL) was added and the mixture was stirred at room temperature overnight. The mixture was quenched with water (20 mL) and extracted with dichloromethane (3×20 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated to a tan resin. The recovered material was purified via chromatography using an ISCO automated purification apparatus (silica gel column 24 g 20%→80% ethyl acetate:hexane solvent gradient). N-(2-{[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-methyl-amino}-methyl]-phenyl)-N-methyl-methanesulfonamide was isolated as tan foam (0.207 g, 80%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.96 (d, J=6.6 Hz, 1H), 7.35-7.27 (m, 4H), 6.89-6.84 (m, 1H), 6.54 (d, J=8.0 Hz, 1H), 5.54-5.40 (br m, 1H), 5.06-4.90 (br m, 1H), 3.32 (s, 3H), 3.24 (s, 3H), 3.01 (s, 3H). MS=380, 382 (MH)+.

reactant | N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide | 0.6834 mmol, 250.0 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C15H16ClN5O2S
reactant | acetonitrile | 20 mmol, 1 mL | C(C)#N | C2H3N
reactant | sodium hydride | [H-].[Na+]
solvent | iodomethane | 10 uL | IC | CH3I
solvent | iodomethane | 0.7517 mmol, 46.80 uL | IC | CH3I
product | N-(2-{[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-methyl-amino}-methyl]-phenyl)-N-methyl-methanesulfonamide | ClC1=NN2C(C(=CC=C2)N(C)CC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C16H18ClN5O2S
